US06828317B2
N-{3-[3-Fluoro-4-(5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-3-oxo-butyramide
Diketene (0.0590 ml, 0.648 mmol) is added dropwise to a solution of 2-[4-(5(S)-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluorophenyl]-4H-[1,3,4]thiadiazin-5-one (0.200 g, 0.617 mmol) and triethylamine (0.0946 ml, 0.679 mmol) in DMF (2 ml) and is stirred overnight at room temperature. The reaction mixture is evaporated to dryness and the residue is purified by PTLC (10% MeOH/DCM) to give a white solid (0.22 g, 89%); 1HNMR (300 MHz, DMSO-d6) δ 2.08 (s, 3H), 3.34 (s, 2H), 3.42-3.54 (m, 2H), 3.59 (s, 2H), 3.78 (dd, J=6.3, 9.1 Hz, 1H), 4.14 (t, J=9.1 Hz, 1H), 4.75-4.83 (m, 1H), 7.37 (dd, J=2.2, 8.5 Hz, 1H), 7.52 (dd, J=2.2, 14 Hz, 1H), 7.69 (t, J=8.8 Hz, 1H), 8.45 (t, J=5.8 Hz, 1H), 11.6 (s, 1H); mp 176-8; MS (m/z): [M+H]+=409.

reactant | Diketene | 0.648 mmol, 0.0590 ml | C=C1CC(=O)O1 | C4H4O2
reactant | 2-[4-(5(S)-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluorophenyl]-4H-[1,3,4]thiadiazin-5-one | 0.617 mmol, 0.200 g | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1SCC(NN1)=O)F | C13H13FN4O3S
reactant | triethylamine | 0.679 mmol, 0.0946 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-{3-[3-Fluoro-4-(5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-3-oxo-butyramide | 0.22 g, 89% | FC=1C=C(C=CC1C=1SCC(NN1)=O)N1C(O[C@H](C1)CNC(CC(C)=O)=O)=O | C17H17FN4O5S
